US04284634
To a solution of 2-benzyloxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-diethoxymethyl-1,4-dihydropyridine-3-carboxylate (6.0 g) in acetone (60 ml) was added 6 N hydrochloric acid (6 ml) and the mixture was stirred at room temperature for 2 hours. The reaction mixture was adjusted to pH 7.5 to 8 with an aqueous sodium bicarbonate solution, and acetone was distilled off under reduced pressure. The resultant solution was diluted with water (150 ml) to separate out oily precipitates, which were extracted twice with ethyl acetate (100 ml and 50 ml, respectively). The organic layer was washed with water, dried over magnesium sulfate and evaporated to dryness under reduced pressure to give oily 2-benzyloxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate (5.02 g).

reactant | 2-benzyloxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-diethoxymethyl-1,4-dihydropyridine-3-carboxylate | 6.0 g | CC=1NC(=C(C(C1C(=O)OCCOCC1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C(OCC)OCC | C30H36N2O9
reactant | hydrochloric acid | 6 N, 6 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 2-benzyloxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate | 5.02 g | CC=1NC(=C(C(C1C(=O)OCCOCC1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C=O | C26H26N2O8
